US07713994B2
(4Z)-4-({[3-(Azepan-1-ylmethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione
An amount of (4E)-4-(methoxymethylene)-isoquinoline-1,3(2H,4H)-dione (1.0 g, 4.9 mmol) is added to N,N′-dimethylformamide, followed by 3-(azepan-1-ylmethyl)aniline (1.0 g, 4.9 mmol). The reaction mixture is heated at 120° C. under N2 for 40 minutes. After evaporating to dryness, the red oil is dissolved in warm ethyl acetate and filtered through a pad of celite to give a yellow solution. Addition of hexane into this organic solution yielded an orange precipitate, which is collected and recrystallized from EtOAc/Hex to give orange crystal (0.925 g, 50.05% yield): mp 116-117° C.; 1H NMR (DMSO-d6) δ 12.43 (d, J=9 Hz, 1H), 11.33 (s, 1H), 8.80 (d, J=9 Hz, 1H), 8.18 (d, J=9 Hz, 1H), 8.04 (d, J=9 Hz, 1H), 7.63 (t, J=6 Hz, 1H), 7.46 (s, 1H), 7.39 (m, 2H), 7.30 (t, J=3 Hz, 1H), 7.17 (d, J=6 Hz, 1H), 3.64 (s, 2H), 2.60 (s, 4H), 1.58 (m, 8H); MS (ESI) m/z 376.1 (M+H)+1; Analysis for C23H25N3O2; Calcd: C, 73.6; H, 6.71; N, 11.2. Found: C, 72.92; H, 6.45; N, 11.03.

reactant | (4E)-4-(methoxymethylene)-isoquinoline-1,3(2H,4H)-dione | 4.9 mmol, 1.0 g | CO\C=C/1\C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
reactant | N,N′-dimethylformamide | CN(C)C=O | C3H7NO
reactant | 3-(azepan-1-ylmethyl)aniline | 4.9 mmol, 1.0 g | N1(CCCCCC1)CC=1C=C(N)C=CC1 | C13H20N2
solvent | hexane | CCCCCC | C6H14
product | (4Z)-4-({[3-(Azepan-1-ylmethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 0.925 g, 50.05% yield | N1(CCCCCC1)CC=1C=C(C=CC1)N\C=C\1/C(NC(C2=CC=CC=C12)=O)=O | C23H25N3O2
